US04698419
Carbobenzoxy-glycyl-phenylalanyl-glycyl-arginine is prepared by the method similar to that described for the preparation of carbobenzoxy-phenylalanyl-glycyl-arginine on the basis of 2.71 g (5.28 mM) of the latter and 1.93 g (5.83 mM) of p-nitrophenyl ester of carbobenzoxy-glycin.

reactant | carbobenzoxy-phenylalanyl-glycyl-arginine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C25H32N6O6
reactant | carbobenzoxy-glycin | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
product | Carbobenzoxy-glycyl-phenylalanyl-glycyl-arginine | C(=O)(OCC1=CC=CC=C1)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C27H35N7O7
